US08071592B2
(b) Phenylmethyl ({(3S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-3-pyrrolidinyl}methyl)carbamate
To a solution of (7-fluoro-2-oxo-1(2H)-quinolinyl)acetaldehyde (1.17 g, 5.71 mmol) and phenylmethyl [(3R)-3-pyrrolidinylmethyl]carbamate (may be prepared analogously to the 3R isomer of Preparation 23(b) in WO2006002047, from (R)-3-(aminomethyl)-1-N-Boc-pyrrolidine) (1.34 g, 5.71 mmol) in 1:1 CH2Cl2:MeOH (80 mL) were added 8 eq. Na2SO4 (6.5 g, 46 mmol) and the reaction was stirred at ambient temperature for 18 h. The intermediate imine was treated with sodium triacetoxyborohydride (3.63 g, 17.0 mmol) and stirred for an additional 16 h. The solvents were removed under reduced pressure; the residue was partitioned between ethyl acetate and aqueous saturated NaHCO3, and the organic layer was dried over Na2SO4. Purification by column chromatography on silica gel, (1% to 20% methanol:dichloromethane gradient) yielded a light amber oil. (820 mg, 34%).

reactant | (7-fluoro-2-oxo-1(2H)-quinolinyl)acetaldehyde | 5.71 mmol, 1.17 g | FC1=CC=C2C=CC(N(C2=C1)CC=O)=O | C11H8FNO2
reactant | phenylmethyl [(3R)-3-pyrrolidinylmethyl]carbamate | N1C[C@@H](CC1)CNC(OCC1=CC=CC=C1)=O | C13H18N2O2
reactant | (R)-3-(aminomethyl)-1-N-Boc-pyrrolidine | NC[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | Na2SO4 | 46 mmol, 6.5 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 17.0 mmol, 3.63 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | MeOH | 80 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Phenylmethyl ({(3S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-3-pyrrolidinyl}methyl)carbamate | FC1=CC=C2C=CC(N(C2=C1)CCN1C[C@@H](CC1)CNC(OCC1=CC=CC=C1)=O)=O | C24H26FN3O3
